US04649144
7-(3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride (6.6 g) was suspended in absolute ethanol. Sulfuric acid (7 g) was added to the suspension and the mixture was refluxed for 1 hour with stirring. After evaporation of ethanol (ca. 20 ml), absolute ethanol (20 ml) was added and the mixture was again refluxed. This operation was repeated three times and then the mixture was refluxed for 15 hours with stirring. After evaporation of ethanol, chloroform and 20% aqueous sodium hydroxide solution was added to the residue, and the mixture was adjusted to pH>9. The organic layer was separated, chloroform was evaporated under reduced pressure, and the residue was recrystallized from ethyl acetate to give ethyl 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8naphthyridine-3-carboxylate (4.3 g), m.p. 148°-150.5° C.

reactant | 7-(3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | 6.6 g | Cl.NC1CN(CC1C)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F
reactant | Sulfuric acid | 7 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8naphthyridine-3-carboxylate | 4.3 g | NC1CN(CC1C)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)OCC)=O)F | C19H23FN4O3
